US07576099B2
4-(3,3-dimethylbut-1-ynyl)-3-(2-morpholinoethoxy)benzoic acid
Ethyl 3-(2-morpholinoethoxy)-4-(3,3-dimethylbut-1-ynyl)benzoate (0.34 g, 0.95 mmol) and LIOH (68 mg, 2.84 mmol) were placed in a 3:1 mixture of methanol:water (30 mL) and heated at 60° C. for 3.5 h. The reaction was cooled and concentrated in vacuo to a volume of 20 mL. The mixture was placed in an ice-water bath and acidified to pH 5 with conc. HCl. A white solid precipitated which was filtered and washed thoroughly with water. The solid was dried in a vacuum oven to give the product (0.24 g, 70%) as a solid. m/z=330.1 (M−1).

reactant | Ethyl 3-(2-morpholinoethoxy)-4-(3,3-dimethylbut-1-ynyl)benzoate | 0.95 mmol, 0.34 g | O1CCN(CC1)CCOC=1C=C(C(=O)OCC)C=CC1C#CC(C)(C)C | C21H29NO4
reactant | methanol | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 4-(3,3-dimethylbut-1-ynyl)-3-(2-morpholinoethoxy)benzoic acid | 0.24 g, 70% | CC(C#CC1=C(C=C(C(=O)O)C=C1)OCCN1CCOCC1)(C)C | C19H25NO4
